US08466180B2
To a solution of benzene-1,3-diamine (4.48 g, 41.4 mmol) in anhydrous tetrahydrofuran (3 ml) under an atmosphere of nitrogen was added 2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzoyl chloride (4.40 g, 13.8 mmol) (Example I4) dissolved in anhydrous tetrahydrofuran (3 ml). The reaction mixture was stirred at 70° C. for 48 hours. Then the reaction mixture was diluted with ethyl acetate and aqueous sodium hydrogen carbonate (saturated). The phases were separated and the aqueous phase was extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 3:1) to give N-(3-amino-phenyl)-2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzamide (3.4 mg, 61% yield). 1H-NMR (CDCl3, 400 MHz): 7.34 (t, 1H), 7.30 (s, 2H), 7.15 (t, 1H), 6.75 (d, 2H), 6.52 (d, 2H), 2.46 (s, 6H) ppm.

reactant | benzene-1,3-diamine | 41.4 mmol, 4.48 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | 2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzoyl chloride | 13.8 mmol, 4.40 g | CC1=C(C(=O)Cl)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C12H8ClF7O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-(3-amino-phenyl)-2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzamide | 3.4 mg, 61% yield | NC=1C=C(C=CC1)NC(C1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)F)C)=O | C18H15F7N2O
